US09120777B2
F) 6-Cyclopropyl-3-isopropoxy-2,2′,4′-trifluorobiphenyl-4-carbaldehyde
Cyclopropylboronic acid (424 mg), a 2 M aqueous sodium carbonate solution (3.29 mL), tris(dibenzylideneacetone)dipalladium(0) (151 mg), and dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine (135 mg) were added at room temperature to a toluene (15 mL) solution of 6-bromo-3-isopropoxy-2,2′,4′-trifluorobiphenyl-4-carbaldehyde (615 mg), and the mixture was stirred at 100 C for 16 hours in an argon atmosphere. Water was added to the reaction mixture, and then, the mixture was filtered through celite. The filtrate was subjected to extraction with ethyl acetate. The organic layer was separated, then washed with water and saturated saline in this order, and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (529 mg).

reactant | Cyclopropylboronic acid | 424 mg | C1(CC1)B(O)O | C3H7BO2
reactant | sodium carbonate | 2 M, 3.29 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine | 135 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | 6-bromo-3-isopropoxy-2,2′,4′-trifluorobiphenyl-4-carbaldehyde | 615 mg | BrC1=CC(=C(C(=C1C1=C(C=C(C=C1)F)F)F)OC(C)C)C=O | C16H12BrF3O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 151 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | Water | O | H2O
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 6-Cyclopropyl-3-isopropoxy-2,2′,4′-trifluorobiphenyl-4-carbaldehyde | 529 mg | C1(CC1)C1=CC(=C(C(=C1C1=C(C=C(C=C1)F)F)F)OC(C)C)C=O | C19H17F3O2
